US05534647
2-Ethyl-2-acryloyloxymethyl-3-methoxycarbonyloxypropanol
Analogous to Example 1, the title compound was synthesized using 21.4 g of 5-ethyl-5-acryloyloxymethyl-2-oxo-1,3-dioxane, 96 g of methanol and 0.1 g of p-toluenesulfonic acid.

reactant | 5-ethyl-5-acryloyloxymethyl-2-oxo-1,3-dioxane | 21.4 g | C(C)C1(COC(OC1)=O)COC(C=C)=O | C10H14O5
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methanol | 96 g | CO | CH4O
product | 2-Ethyl-2-acryloyloxymethyl-3-methoxycarbonyloxypropanol | C(C)C(CO)(COC(=O)OC)COC(C=C)=O | C11H18O6
